US04474777
53.6 g of carbobenzoxy-L-alanine are dissolved in 400 ml of dry tetrahydrofuran, the solution is treated dropwise with 30 g of thionyl chloride while cooling with ice and the mixture is stirred for 1 hour in the cold. A solution of 54 g (0.2 mol) of 2-amino-5-nitro-2'-chlorobenzophenone in 150 ml of dry tetrahydrofuran is subsequently added dropwise thereto rapidly, whereupon the mixture is stirred at room temperature for 24 hours. The solution obtained is concentrated, the residue is treated with ice and 10 percent sodium bicarbonate solution and extracted with methylene chloride. The organic solution is dried over sodium sulphate and evaporated. The residue is treated with dry ether, left to crystallize for 1 hour and then filtered while rinsing with ether/petroleum ether (1:1). After drying, there is obtained (S)-benzyl-[1-[[2-(o-chlorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl]carbamate of melting point 143°-145°; [α]25 D =18° (1 percent solution in methylene chloride).

reactant | carbobenzoxy-L-alanine | 53.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | thionyl chloride | 30 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-nitro-2'-chlorobenzophenone | 0.2 mol, 54 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H9ClN2O3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (S)-benzyl-[1-[[2-(o-chlorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl]carbamate | C(C1=CC=CC=C1)OC(N[C@@H](C)C(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)Cl)=O)=O)=O | C24H20ClN3O6
